US07846956B2
14.02 g of 1-butyn-2-ol and 7.58 g of ethyl (2E)-chloro(hydroxyimino)acetate were dissolved in 50 ml of tetrahydrofuran, and a solution of 6.06 g of triethylamine in 25 ml of tetrahydrofuran was then added dropwise at 0° C. over 30 minutes. The mixture was stirred at room temperature overnight. After aqueous saturated sodium chloride was added, the reaction mixture was separated into layers. The aqueous layer was extracted with ethyl acetate. The organic layers were combined, dried over anhydrous magnesium sulfate, filtered and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography to obtain 5.67 g of ethyl 5-(1-hydroxyethyl)-isoxazole-3-carboxylate.

reactant | ethyl (2E)-chloro(hydroxyimino)acetate | 7.58 g | Cl/C(/C(=O)OCC)=N/O | C4H6ClNO3
reactant | triethylamine | 6.06 g | C(C)N(CC)CC | C6H15N
reactant | sodium chloride | [Cl-].[Na+]
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | ethyl 5-(1-hydroxyethyl)-isoxazole-3-carboxylate | 5.67 g | OC(C)C1=CC(=NO1)C(=O)OCC | C8H11NO4
